US07091199B1
Preparation of benzyl-[2-(3-thieno[2,3-d]isoxazol-3-yl-phenoxy)-ethyl]-amine (Scheme I, Compound I)
The title compound is prepared from 3-[3-(2-bromo-ethoxy)-phenyl]-thieno[2,3-d]isoxazole, potassium carbonate, and benzylamine in two separate reactions using acetonitrile and 90% aqueous acetonitrile, respectively, essentially as described above in example 18 except that the reaction mixtures are filtered through 2 g of silica (ethyl acetate then dichloromethane). Combine and concentrate the appropriate fractions. Purify by column chromatography on silica gel. Elute the column with a step gradient of 50% ethyl acetate in heptane to 100% ethyl acetate to give the title compound (0.350 g, 81%). mp=60–63° C. Microanalysis (C, H, N) is consistent with the final compound.

reactant | 3-[3-(2-bromo-ethoxy)-phenyl]-thieno[2,3-d]isoxazole | BrCCOC=1C=C(C=CC1)C1=NOC2=C1SC=C2 | C13H10BrNO2S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | benzyl-[2-(3-thieno[2,3-d]isoxazol-3-yl-phenoxy)-ethyl]-amine | 0.350 g, 81% | C(C1=CC=CC=C1)NCCOC1=CC(=CC=C1)C1=NOC2=C1SC=C2 | C20H18N2O2S
